US04011241
0.50 Gm. of 2-acetyl-5H-dibenzo[a,d]cycloheptene-5-one and 0.45 gm. of phosphorus pentachloride are stirred in 50 ml. of dry benzene for one hour, and then the solution is added to a mixture of 1.01 gm. of triethylamine, 1.35 gm. of ethylene glycol and 100 ml. of acetonitrile. The mixture is stirred for 20 hours then added to water and ether. The ethereal layer is washed with water, dried and evaporated to give a nearly quantitative yield of 5,5-ethylenedioxy-2-acetyl-5H-dibenzo[a,d]cycloheptene.

reactant | 2-acetyl-5H-dibenzo[a,d]cycloheptene-5-one | C(C)(=O)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C17H12O2
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 5,5-ethylenedioxy-2-acetyl-5H-dibenzo[a,d]cycloheptene | quantitative yield | C1OC2(C3=C(C=CC4=C2C=CC(=C4)C(C)=O)C=CC=C3)OC1 | C19H16O3
